US07749997B2
4-Phenylbicyclo[2.2.2]oct-1-ylmethyl toluene-4-sulfonate
Pyridine (4 mL), then a solution of toluene-4-sulfonyl chloride (7.4 g, 38.81 mmol) in dry DCM (30 mL), were added to a stirred solution of (4-phenylbicyclo[2.2.2]oct-1-yl)methanol (7.0 g, 32.36 mmol) in DCM (70 mL), maintaining 0-5° C. throughout. The reaction mixture was stirred at 0° C. overnight, refluxed for 2 h then cooled to 35° C. Further pyridine (2 mL) and a solution of toluene-4-sulfonyl chloride (3.9 g) in DCM (10 mL) were added and the mixture stirred at reflux for 2 h. As some starting material remained, a catalytic amount of 4-dimethylaminopyridine was added and the mixture stirred under reflux overnight. The mixture was cooled, diluted with DCM (200 mL) then washed with water (100 mL), hydrochloric acid (2M; 150 mL), water (50 mL), sat. aq. NaHCO3 (100 mL), water (50 mL) and brine (50 mL). After drying (MgSO4) the solution was concentrated to give crude product which was purified by silica column chromatography (silica 40-63 micron) eluting with hexane:ethyl acetate (19:1 to 4:1) to afford the title compound as a pale yellow solid (10.7 g, 89%).

reactant | Pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
reactant | toluene-4-sulfonyl chloride | 38.81 mmol, 7.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (4-phenylbicyclo[2.2.2]oct-1-yl)methanol | 32.36 mmol, 7.0 g | C1(=CC=CC=C1)C12CCC(CC1)(CC2)CO | C15H20O
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | toluene-4-sulfonyl chloride | 3.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-Phenylbicyclo[2.2.2]oct-1-ylmethyl toluene-4-sulfonate | 10.7 g, 89% | C1(=CC=C(C=C1)S(=O)(=O)OCC12CCC(CC1)(CC2)C2=CC=CC=C2)C | C22H26O3S
